US08008483B2
a) Preparation of N-{[2-(trifluoromethyl)phenyl]methyl}-4-piperidinecarboxamide
To a cold (0° C.) solution of 1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinecarboxylic acid (3.68 g, 16.1 mmol, 1.00 equiv), {[2-(trifluoromethyl)phenyl]methyl}amine (2.57 mL, 18.3 mmol, 1.14 equiv), and DMAP (392 mg, 3.21 mmol, 0.200 equiv) in CH2Cl2 (100 mL) was added diisopropylethylamine (DIEA, 3.49 ml, 20.1 mmol, 1.25 equiv) and EDCI (3.11 g, 20.1 mmol, 1.25 equiv). The reaction mixture was stirred at 0° C. for 30 min and then at room temperature overnight. The solution was washed with H2O, sat NaHCO3 (aq) and brine. The organic layer was dried over Na2SO4, filtered, and concentrated. The residue was stirred in CH2Cl2 (60 mL) and TFA (60 mL) for 20 min at room temperature, and then the solvents were removed in vacuo. The residue was diluted with CH2Cl2, and the resulting solution was neutralized carefully with sat NaHCO3 (aq). Solid NaCl was used to saturate the aqueous layer, which was then extracted 3 times with ethyl acetate. The organic layers were combined, dried with Na2SO4, filtered and concentrated to afford 4.43 g (97% yield) of the desired product. MS (ES+): m/e 287.0 [M+H]+.

reactant | 1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinecarboxylic acid | 16.1 mmol, 3.68 g, 1.00 equiv | CC(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | {[2-(trifluoromethyl)phenyl]methyl}amine | 18.3 mmol, 2.57 mL, 1.14 equiv | FC(C1=C(C=CC=C1)CN)(F)F | C8H8F3N
reactant | diisopropylethylamine | 20.1 mmol, 3.49 ml, 1.25 equiv | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EDCI | 20.1 mmol, 3.11 g, 1.25 equiv | CCN=C=NCCCN(C)C | C8H17N3
catalyst | DMAP | 3.21 mmol, 392 mg, 0.200 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-{[2-(trifluoromethyl)phenyl]methyl}-4-piperidinecarboxamide | 4.43 g, 97% yield | FC(C1=C(C=CC=C1)CNC(=O)C1CCNCC1)(F)F | C14H17F3N2O
